US06534496B1
4-(1-Acetyl-4-piperidinyl)butyric acid (2.6 g, 12 mmol) was added in small portions to thionyl chloride (12 ml) with ice-bath cooling. After the mixture was stirred for 5 minutes, the excess thionyl chloride was distilled off and the residue was washed with hexane to provide 4-(1-acetyl-4-piperidinyl)butyryl chloride as light-yellow solid. Aluminum chloride (66,0 g, 0.49 mol) powders were added in small portions to a mixed solution of the above acid chloride and 3-trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepine (2.5 g, 10 mmol), obtained in Reference Example 3, in 1,2-dichloroethane (10 ml) with ice-bath cooling. This mixture was stirred at room temperature for 2 days, then poured in ice-water, and extracted with ethyl acetate. The extract was washed with saturated NaCl/H2O and dried over MgSO4 The solvent was then distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluent: ethyl acetate-methanol=9:1) to provide 4-(1-acetyl-4-piperidinyl)-1-(3-trifluoroacetyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)-1-butanone (3.7 g) as colorless crystals melting at 101-102° C.

reactant | 4-(1-Acetyl-4-piperidinyl)butyric acid | 12 mmol, 2.6 g | C(C)(=O)N1CCC(CC1)CCCC(=O)O | C11H19NO3
reactant | thionyl chloride | 12 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-(1-acetyl-4-piperidinyl)butyryl chloride | C(C)(=O)N1CCC(CC1)CCCC(=O)Cl | C11H18ClNO2
